US07868036B2
b) (R)-2-Methyl-2-piperidin-3-yl-propionic acid methyl ester hydrochloride
1.030 g of (R)-3-(1-methoxycarbonyl-1-methyl-ethyl)-piperidine-1-carboxylic acid tert-butyl ester are taken up in 10 ml of 4M HCl in dioxane. The reaction solution is left to stand at room temperature for 1 hour and is then concentrated under reduced pressure to provide the title compound as colourless solid which can be used without further purification.

reactant | (R)-3-(1-methoxycarbonyl-1-methyl-ethyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.030 g | C(C)(C)(C)OC(=O)N1C[C@H](CCC1)C(C)(C)C(=O)OC | C15H27NO4
reactant | HCl | 4M, 10 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (R)-2-Methyl-2-piperidin-3-yl-propionic acid methyl ester hydrochloride | Cl.COC(C(C)([C@@H]1CNCCC1)C)=O | InChI=1S/C10H19NO2.ClH/c1-10(2,9(12)13-3)8-5-4-6-11-7-8;/h8,11H,4-7H2,1-3H3;1H/t8-;/m0./s1
